US04663344
A solution of 3,4-diacetoxy-2-phenylbenzo[b]thiophene (28 mg) in methanol (5 ml) was treated with a catalytic amount of sodium methoxide for 18 hours at room temperature. One drop of acetic acid was added, and the solution was evaporated. The residue was dissolved in dichloromeethane, filtered and the filtrate evaporated to give 3,4-dihydroxy-2-phenylbenzo[b]thiophene as a light yellow solid; yield 20 mg; m/z 242 (M+.).

reactant | 3,4-diacetoxy-2-phenylbenzo[b]thiophene | 28 mg | C(C)(=O)OC=1C2=C(SC1C1=CC=CC=C1)C=CC=C2OC(C)=O | C18H14O4S
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
catalyst | acetic acid | One drop | C(C)(=O)O | C2H4O2
product | 3,4-dihydroxy-2-phenylbenzo[b]thiophene | OC=1C2=C(SC1C1=CC=CC=C1)C=CC=C2O | C14H10O2S
